US09169254B2
A 1.2 M aqueous KOH solution (0.5 mL) was added to a solution of acetic acid (S)-1-acetoxymethyl-2-[acetyl-(3-methyl-4-{2-[4-oxo-2-(4-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-amino]-ethyl ester (40.8 mg, 0.0587 mmol) in MeOH (3 mL). The reaction mixture was stirred at 50° C. for 1.5 hours and then cooled to room temperature. Dowex 50W×4 (237.6 mg) was added. The mixture was further stirred at room temperature for two hours and then filtered, and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (CH2Cl2/MeOH=10/1) to give 8-{2-[4-((S)-2,3-dihydroxy-propylamino)-2-methyl-phenyl]-ethanesulfonyl}-2-(4-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one as a white powder (30.3 mg, 91%).

reactant | KOH | 1.2 M, 0.5 mL | [OH-].[K+]
reactant | acetic acid (S)-1-acetoxymethyl-2-[acetyl-(3-methyl-4-{2-[4-oxo-2-(4-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-amino]-ethyl ester | 0.0587 mmol, 40.8 mg | C(C)(=O)OC[C@H](CN(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC=C(C=C2)C(F)(F)F)=O)CC1)C)C(C)=O)OC(C)=O | C32H37F3N4O8S
solvent | MeOH | 3 mL | CO | CH4O
product | 8-{2-[4-((S)-2,3-dihydroxy-propylamino)-2-methyl-phenyl]-ethanesulfonyl}-2-(4-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 30.3 mg, 91% | O[C@@H](CNC1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC=C(C=C2)C(F)(F)F)=O)CC1)C)CO | C26H31F3N4O5S
